US06894061B2
6-Ethyl-8-fluorophenanthridine
The title compound was prepared from N-(4′-fluoro-1,1′-biphenyl-2-yl)propanamide (5.00 g, 20.6 mmol) and phosphorous oxychloride (9.6 mL, 103 mmol), according to the procedure and in the same manner as described in Example 36, Step b to yield, after purification by re-crystallization from a mixture of ethyl acetate-hexane, 6-ethyl-8-fluorophenanthridine as a white solid (1.43 g, 31%, m.p. 105-106° C.;

reactant | N-(4′-fluoro-1,1′-biphenyl-2-yl)propanamide | 20.6 mmol, 5.00 g | FC1=CC=C(C=C1)C1=C(C=CC=C1)NC(CC)=O | C15H14FNO
reactant | phosphorous oxychloride | 103 mmol, 9.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Ethyl-8-fluorophenanthridine | C(C)C=1N=C2C=CC=CC2=C2C=CC(=CC12)F | C15H12FN
